US06995263B2
e] [2-Cyclopropylmethyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol
In analogy to the procedure described in example 16 c], 2-cyclopropylmethyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid ethyl ester was treated with lithium aluminium hydride to give the title compound as colorless crystals.

reactant | 2-cyclopropylmethyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)CC1CC1)=O | C20H17F6NO3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [2-Cyclopropylmethyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol | C1(CC1)CC1=NC(=CC(=C1CO)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C18H15F6NO2
